US04496572
A solution of 7-bromo-1-hydroxy-1-methyl-2-(1-imidazolylmethyl)-1,2,3,4-tetrahydronaphthalene (1.95 g) and triphenylmethanol (2.37 g) in trifluoroacetic acid (30 ml) was heated under reflux for 4 days. An additional 2.37 g of triphenylmethanol was added and the solution was heated under reflux for a further 5 days. The solution was evaporated and the residue was basified with diluted sodium hydroxide solution. The mixture was extracted several times with ethyl acetate and the combined extracts were washed with water and dried (Na2SO4). Evaporation of the solvent gave an oil which was chromatographed on silica gel. Elution with chloroform first gave triphenylmethane and some triphenylmethanol followed by pure product. The product-containing fractions were evaporated to give 7-bromo-2-(1-imidazolylmethyl)-1-methylnaphthalene (1.38 g). A sample crystallised from ethyl acetate/petrol (b.p. 60°-80°) had m.p. 112°-113°.

reactant | 7-bromo-1-hydroxy-1-methyl-2-(1-imidazolylmethyl)-1,2,3,4-tetrahydronaphthalene | 1.95 g | BrC1=CC=C2CCC(C(C2=C1)(C)O)CC=1NC=CN1 | C15H17BrN2O
reactant | triphenylmethanol | 2.37 g | C1(=CC=CC=C1)C(O)(C1=CC=CC=C1)C1=CC=CC=C1 | C19H16O
reactant | triphenylmethanol | 2.37 g | C1(=CC=CC=C1)C(O)(C1=CC=CC=C1)C1=CC=CC=C1 | C19H16O
solvent | trifluoroacetic acid | 30 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 7-bromo-2-(1-imidazolylmethyl)-1-methylnaphthalene | 1.38 g | BrC1=CC=C2C=CC(=C(C2=C1)C)CC=1NC=CN1 | C15H13BrN2
